US04415572
8-Aminocarbostyril (15.47 g, 96.6 mmols) and bis(β-bromoethyl)amine hydrobromide (33 g, 106 mmols) were suspended in DMF and the suspension was stirred at 70° to 80° C. for 10 hours. After adding 5.1 g of sodium carbonate the reaction mixture was stirred at the same temperature as above for 7 hours. After distilling off the solvent under reduced pressure, methanol was added to the residue to crystallize. The crude crystals thus obtained were recrystallized from methanol-ether to give 5.1 g of 8-(1-piperazinyl)carbostyril hydrobromide, m.p. above 300° C., colorless scales.

reactant | 8-Aminocarbostyril | 96.6 mmols, 15.47 g | NC=1C=CC=C2C=CC(NC12)=O | C9H8N2O
reactant | bis(β-bromoethyl)amine hydrobromide | 106 mmols, 33 g | Br.BrCCNCCBr
reactant | sodium carbonate | 5.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(1-piperazinyl)carbostyril hydrobromide | 5.1 g | Br.N1(CCNCC1)C=1C=CC=C2C=CC(NC12)=O | InChI=1S/C13H15N3O.BrH/c17-12-5-4-10-2-1-3-11(13(10)15-12)16-8-6-14-7-9-16;/h1-5,14H,6-9H2,(H,15,17);1H
